US05495020
To 2,3,6-trifluoro-4-chlorotoluene (0.22 g) is added conc. sulfuric acid (3 ml) and the mixture is cooled to 0° C. Thereto potassium nitrate (0.18 g) is added and the mixture is stirred for 15 minutes under ice-cooling. The reaction mixture is poured into ice-water, extracted with dichloromethane, and the extract is washed with a saturated aqueous solution of sodium hydrogen carbonate, then with water and dried. The solvent is distilled off under reduced pressure to give 2,3,6-trifluoro-4-chloro-5-nitrotoluene (0.17 g).

reactant | 2,3,6-trifluoro-4-chlorotoluene | 0.22 g | FC1=C(C(=CC(=C1F)Cl)F)C | C7H4ClF3
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium nitrate | 0.18 g | [N+](=O)([O-])[O-].[K+]
product | 2,3,6-trifluoro-4-chloro-5-nitrotoluene | 0.17 g | FC1=C(C(=C(C(=C1F)Cl)[N+](=O)[O-])F)C | C7H3ClF3NO2
